US06150352
Step 5B Thiophene-2-sulfonic acid [7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-amide
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(thiophene-2-sulfonylamino)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester in 5 mL methylene chloride was added a few drops of anisole followed by 1.0 mL of trifluoroacetic acid and the mixture stirred at room temperature. After 30 minutes the solvents were removed in vacuo and the resulting residue purified by flash chromatography on silica gel (methylene chloride:10% ammonium hydroxide in methanol, 95:5; then 90:10) to give the title compound.

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(thiophene-2-sulfonylamino)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NS(=O)(=O)C=1SC=CC1)Cl)=O)C1=CC(=CC(=C1)C)C | C33H38ClN3O6S2
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | anisole | a few drops | C1(=CC=CC=C1)OC | C7H8O
product | Thiophene-2-sulfonic acid [7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-amide | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1NCCCC1)NS(=O)(=O)C=1SC=CC1 | C28H30ClN3O4S2
